US09226923B2
To a suspension of 4-(benzyloxy)cyclohexanecarboxamide (2.33 g, 10 mmol, 1.0 equiv) in THF (dry, 50 mL) was added trifluoroacetic anhydride (4.16 mL, 30 mmol, 3.0 equiv) dropwise at room temperature. The resulting clear solution was stirred at room temperature for 30 min and then concentrated to give the residue. H2O (50 mL) was added. The aqueous phase was extracted with MTBE (3×50 mL). The combined organic solution was washed with brine (50 mL), dried over anhydrous Na2SO4, concentrated to give 2.1 g (yield 97%) of 4-(benzyloxy)cyclohexanecarbonitrile as a pale yellow oil.

reactant | 4-(benzyloxy)cyclohexanecarboxamide | 10 mmol, 2.33 g, 1.0 equiv | C(C1=CC=CC=C1)OC1CCC(CC1)C(=O)N | C14H19NO2
reactant | trifluoroacetic anhydride | 30 mmol, 4.16 mL, 3.0 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | H2O | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(benzyloxy)cyclohexanecarbonitrile | 2.1 g, yield 97% | C(C1=CC=CC=C1)OC1CCC(CC1)C#N | C14H17NO
